US09370515B2
Preparation of 3-bromo-6-chloro-2-methylimidazo[1,2-b]pyridazine
To a solution of 6-chloro-2-methylimidazo[1,2-b]pyridazine (2.00 g, 11.9 mmol, 1.0 equiv) in chloroform (50 mL) was added N-bromosuccinimide (2.55 g, 14.3 mmol, 1.2 equiv). The reaction was stirred at room temperature for 15 h. Purification by column chromatography using 50% ethyl acetate in hexanes elution gave 2.64 g of the yellow solid, 90%.

reactant | 6-chloro-2-methylimidazo[1,2-b]pyridazine | 11.9 mmol, 2.00 g, 1.0 equiv | ClC=1C=CC=2N(N1)C=C(N2)C | C7H6ClN3
reactant | N-bromosuccinimide | 14.3 mmol, 2.55 g, 1.2 equiv | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-6-chloro-2-methylimidazo[1,2-b]pyridazine | 2.64 g | BrC1=C(N=C2N1N=C(C=C2)Cl)C | C7H5BrClN3
